US08067445B2
Step 4: (4-Chloro-3-trifluoromethanesulfonyloxy-phenyl)-acetic acid ethyl ester
Prepared according to the procedure described in Example 185, Step 4, using the following starting materials: (4-chloro-3-hydroxy-phenyl)-acetic acid ethyl ester and N-phenyl-bis(trifluoromethanesulfonimide).

reactant | (4-chloro-3-hydroxy-phenyl)-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)Cl)O)=O | C10H11ClO3
reactant | N-phenyl-bis(trifluoromethanesulfonimide) | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
product | (4-Chloro-3-trifluoromethanesulfonyloxy-phenyl)-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)Cl)OS(=O)(=O)C(F)(F)F)=O | C11H10ClF3O5S
